US04743691
A mixture of methyl 2-fluoromethyl-2,5-bis(benzylideneamino)pentanoate (3.11 g) in diethyl ether (20 ml) and N aqueous HCl (100 ml) is stirred at room temperature for 3 hours. The aqueous phase is decanted, washed with ether, and concentrated in vacuo to give 2.5 g of methyl 2-fluoromethyl-2,5-diaminopentanoate dihydrochloride.

reactant | methyl 2-fluoromethyl-2,5-bis(benzylideneamino)pentanoate | 3.11 g | FCC(C(=O)OC)(CCCN=CC1=CC=CC=C1)N=CC1=CC=CC=C1 | C21H23FN2O2
reactant | HCl | 100 ml | Cl | ClH
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | methyl 2-fluoromethyl-2,5-diaminopentanoate dihydrochloride | 2.5 g | Cl.Cl.FCC(C(=O)OC)(CCCN)N | InChI=1S/C7H15FN2O2.2ClH/c1-12-6(11)7(10,5-8)3-2-4-9;;/h2-5,9-10H2,1H3;2*1H
